US08580831B2
N-(2-((4-Acetylthiazol-2-yl)methyl)-2H-1,2,3-triazol-4-yl)-5-(4-iodo-3-methylphenyl)-2-methyloxazole-4-carboxamide
Following general procedure A, starting from 1-(2-((4-amino-2H-1,2,3-triazol-2-yl)methyl)thiazol-4-yl)ethanone and 5-(4-iodo-3-methylphenyl)-2-methyloxazole-4-carboxylic acid. LC-MS-conditions 02: tR=1.12 min; [M+H]+=549.20.

reactant | 1-(2-((4-amino-2H-1,2,3-triazol-2-yl)methyl)thiazol-4-yl)ethanone | NC1=NN(N=C1)CC=1SC=C(N1)C(C)=O | C8H9N5OS
reactant | 5-(4-iodo-3-methylphenyl)-2-methyloxazole-4-carboxylic acid | IC1=C(C=C(C=C1)C1=C(N=C(O1)C)C(=O)O)C | C12H10INO3
product | N-(2-((4-Acetylthiazol-2-yl)methyl)-2H-1,2,3-triazol-4-yl)-5-(4-iodo-3-methylphenyl)-2-methyloxazole-4-carboxamide | C(C)(=O)C=1N=C(SC1)CN1N=CC(=N1)NC(=O)C=1N=C(OC1C1=CC(=C(C=C1)I)C)C | C20H17IN6O3S
